*
.SUBCKT BAT85 1 2
*
* The Resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
D1 1 2 BAT85
R1 1 2 5.416E+7 
* 
.MODEL BAT85 D 
+ IS = 2.076E-7 
+ N = 1.023 
+ BV = 33 
+ IBV = 10E-6 
+ RS = 2.326 
+ CJO = 1.21E-11 
+ VJ = 0.1319 
+ M = 0.2904 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*
