**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT bdx33b 1 2 3
* Model generated on Jan 31, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 11.3767
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.92671 N=0.999184 XTI=2.99919
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=9.95227e-13 BF=123.448 NF=1.11551 VAF=79.7055
+IKF=0.190851 ISE=1.61626e-12 NE=1.58879 BR=0.999157
+NR=0.998586 VAR=92.9909 IKR=0.0999918 ISC=1e-13
+NC=1.99919 RB=9.94154 IRB=0.199184 RBM=9.94149
+RE=0.103128 RC=0.996543 XTB=0.4969 XTI=2.99924 EG=1.11167
+CJE=2.01194e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.56414e-10
+VJC=0.853057 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=9.95227e-13 BF=123.448 NF=1.11551 VAF=79.7055
+IKF=0.190851 ISE=1.61626e-12 NE=1.58879 BR=0.999157
+NR=0.998586 VAR=92.9909 IKR=0.0999918 ISC=1e-13
+NC=1.99919 RB=9.94154 IRB=0.199184 RBM=9.94149
+RE=0.103128 RC=0.996543 XTB=0.4969 XTI=2.99924 EG=1.11167
+CJE=2.01194e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.853057 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
