* TLE2071 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.03 ON 04/05/94 AT 15:13
* REV N/A        SUPPLIES +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TLE2071  1 2 3 4 5
*
  C1   11 12 1.2E-12
  C2    6  7 10.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 5.607E6 -6E6 6E6 6E6 -6E6
  GA    6  0 11 12 333.0E-6
  GCM 0  6 10 99 7.436E-9
  ISS   3 10 DC 400.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.003E3
  RD2   4 12 3.003E3
  RO1   8  5 80
  RO2   7 99 80
  RP 3 4 23E3
  RSS  10 99 500.0E3
  VB    9  0 DC 0
  VC 3 53 DC 1.7
  VE   54  4 DC 1.7
  VLIM  7  8 DC 0
  VLP  91  0 DC 45
  VLN   0 92 DC 45
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=554.5E-6 VTO=-.564)
.ENDS
